US04851413
To a solution of 4.0 g (32.5 mmol) of 1-(3-pyridyl)ethanol in 25 ml of dichloroethane, 4.96 g (32.6 mmol) of 2,3,5-trimethylhydroquinone and 4.5 ml (50.9 mmol) of trifluoromethanesulfonic acid were added and refluxed by heating for 20 hours in argon atomosphere. After cooling, ice water was added, washed with ethyl acetate to eliminate neutral substances, and made weakly alkaline with a saturated solution of sodium hydrogen carbonate. The resultant substance was extracted with ethyl acetate, and the extract was washed with water, dried, oxidized with air and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (isopropyl ether-ethyl acetate (1:2)), to give 5.1 g of 3,5,6-trimethyl-2-[1-(3-pyridyl)ethyl]-1,4-benzoquinone (yield 61%). Physical data of this compound are shown in Table 1.

reactant | 1-(3-pyridyl)ethanol | 32.5 mmol, 4.0 g | N1=CC(=CC=C1)C(C)O | C7H9NO
reactant | 2,3,5-trimethylhydroquinone | 32.6 mmol, 4.96 g | CC1=C(O)C=C(C(=C1C)O)C | C9H12O2
reactant | trifluoromethanesulfonic acid | 50.9 mmol, 4.5 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | dichloroethane | 25 ml | ClC(C)Cl | C2H4Cl2
product | 3,5,6-trimethyl-2-[1-(3-pyridyl)ethyl]-1,4-benzoquinone | 5.1 g, yield 61% | CC1=C(C(C(=C(C1=O)C)C)=O)C(C)C=1C=NC=CC1 | C16H17NO2
